US08957078B2
3,4-Dichloro-5-(4-methylpiperazin-1-yl)pyridazine (500 mg, 2.023 mmol) was placed in a microwave tube and hydrazine monohydrate (1.772 g, 1.717 mL, 35.40 mmol) was added. The resulting suspension was stirred at 100° C. for ˜10 mins. The brown reaction mixture was allowed to cool to RT, whereupon solid started to precipitate. The suspension was sonicated and the suspended solid was collected by filtration. This material was dissolved in water, basified with saturated NaHCO3 and partitioned with 10% MeOH in DCM. The aqueous layer was extracted with further 10% MeOH in DCM (6×10 mL) and the combined organics were dried over Na2SO4, filtered and concentrated under reduced pressure to give a yellow solid. This material was sonicated in ether and the suspended solid was collected by filtration to give [4-chloro-5-(4-methylpiperazin-1-yl)pyridazin-3-yl]hydrazine as an ochre powder (155.9 mg, 32% Yield).

reactant | 3,4-Dichloro-5-(4-methylpiperazin-1-yl)pyridazine | 2.023 mmol, 500 mg | ClC=1N=NC=C(C1Cl)N1CCN(CC1)C | C9H12Cl2N4
reactant | hydrazine monohydrate | 35.40 mmol, 1.717 mL, 1.772 g | O.NN
solvent | ether | CCOCC | C4H10O
product | [4-chloro-5-(4-methylpiperazin-1-yl)pyridazin-3-yl]hydrazine | ClC1=C(N=NC=C1N1CCN(CC1)C)NN | C9H15ClN6
